US07858649B2
4-Bromo-1-(3-nitro-phenyl)-1H-imidazole (8)
To a solution of 4-bromo-imidazole (32 g; 217.7 mmol) in DMF (300 mL) was carefully added NaH (60% dispension; 10.8 g; 270 mmol) such that the temperature did not exceed 30° C. The slurry was stirred for 20 min after which 3-nitro-fluorobenzene 35 mL; 329 mmol) was added. The reaction mixture was stirred for another 30 min, heated to 150° C. and left with stirring overnight. The reaction mixture was poured onto 750 mL of ice-water under stirring. The precipitate was isolated by filtration, washed with H2O, air-dried and trituated with a diethyl ether-petrol ether (bp=80-100° C.) mixture (100 mL+100 mL) to give after filtration and drying of the solid 70 g crude product.

reactant | 4-bromo-imidazole | 217.7 mmol, 32 g | BrC=1N=CNC1 | C3H3BrN2
reactant | NaH | 270 mmol, 10.8 g | [H-].[Na+]
reactant | 3-nitro-fluorobenzene | 35 mL | [N+](=O)([O-])C=1C=C(C=CC1)F | C6H4FNO2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(3-nitro-phenyl)-1H-imidazole | BrC=1N=CN(C1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H6BrN3O2
